US07919628B2
A solution of 70 mg of 2-{[1-(1-acetyl-piperidin-4-ylmethoxy)-4-chloro-naphthalene-2-carbonyl]-amino}-2-methyl-butyric acid ethyl ester in 4 mL THF and 1 mL MeOH was treated with 4 mL of 2 M aqueous sodium hydroxide. The reaction mixture was stirred at room temperature overnight. The organic solvent was removed in vacuo. The residue was taken up in 6 mL of water and washed with ethyl acetate. The aqueous phase was treated with 2 M hydrochloric acid to pH 4, then extracted with ethyl acetate. The organic phase was washed with brine, dried over sodium sulphate and concentrated to give 30 mg of 2-{[1-(1-acetyl-piperidin-4-yl-methoxy)-4-chloro-naphthalene-2-carbonyl]-amino}-2-methyl-butyric acid.

reactant | 2-{[1-(1-acetyl-piperidin-4-ylmethoxy)-4-chloro-naphthalene-2-carbonyl]-amino}-2-methyl-butyric acid ethyl ester | 70 mg | C(C)OC(C(CC)(C)NC(=O)C1=C(C2=CC=CC=C2C(=C1)Cl)OCC1CCN(CC1)C(C)=O)=O | C26H33ClN2O5
reactant | sodium hydroxide | 2 M, 4 mL | [OH-].[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
product | 2-{[1-(1-acetyl-piperidin-4-yl-methoxy)-4-chloro-naphthalene-2-carbonyl]-amino}-2-methyl-butyric acid | 30 mg | C(C)(=O)N1CCC(CC1)COC1=C(C=C(C2=CC=CC=C12)Cl)C(=O)NC(C(=O)O)(CC)C | C24H29ClN2O5
